US05037832
1.58 g (14 mmol) of potassium tert-butanolate was added in three portions in 2-3 minute intervals to a suspension of 5.35 g (14 mmol) of fluoromethyl-triphenyl- phosphine-tetrafluoroborate (Burton, D. J., Wiemers, D. M., J. Fluor. Chem. 27, 85 (1984)) in 120 ml of dry dioxane was instilled. It was allowed to stir for 30 minutes at room temperature and then a solution of 560 mg (1.4 mmol) of 1,1-diethyl-3-(2-formyl-6-n-propyl-8α-ergolinyl)-urea in 15 ml of dioxane was instilled. After 30 minutes (TLC), the batch was poured onto ice and a pH of 3 was padjusted with solid citric acid. It was extracted with ethyl acetate and the organic phase was washed with 2N citric acid. The combined aqueous phases were made alkaline with 25% NH3 solution with cooling and extracted with dichloromethane. These organic phases were washed with water, dried on MgSO4 and the solvent was removed in a vacuum. After chromatography (prepacked columns C; Merck company, diisopropyl ether/methanol 95:5) a total yield of 279 mg (48%) of fluorovinyl compound was obtained. By crystallization of the individual fractions, both isomers were obtained pure.

reactant | potassium tert-butanolate | 14 mmol, 1.58 g | C(C)(C)(C)[O-].[K+]
reactant | fluoromethyl-triphenyl- phosphine tetrafluoroborate | 14 mmol, 5.35 g | FCP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.F[B-](F)(F)F
reactant | 1,1-diethyl-3-(2-formyl-6-n-propyl-8α-ergolinyl)-urea | 1.4 mmol, 560 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C=O)CCC)CC | C23H32N4O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | diisopropyl ether methanol | C(C)(C)OC(C)C.CO | InChI=1S/C6H14O.CH4O/c1-5(2)7-6(3)4;1-2/h5-6H,1-4H3;2H,1H3
